US08309580B2
3-{[4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid (165 mg) as well as ethyl 3-(methylamino)propanoate (55 mg) to give the title compound (178 mg, 91%) as an amorphous compound.

reactant | 4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid | 165 mg | C1(CCCCC1)C(OC1=CC=C(C(=O)O)C=C1)C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C27H27F3O4
reactant | ethyl 3-(methylamino)propanoate | 55 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-(cyclohexyl{2-ethyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid | 178 mg, 91% | C1(CCCCC1)C(OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=C(OC(=C1)C1=CC=C(C=C1)C(F)(F)F)CC | C31H34F3NO5
